US05116869
A solution of sodium thiomethoxide (2.30 g) in methanol (100 ml) was cooled to 0° C., acetic acid (2.82 ml) was added, the mixture was stirred for 5 minutes, Triethylamine (915 ml) was added, and a solution of 2,3-epoxy-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-(3-t-butyldimethylsilyloxy-1-octenyl)cyclopentanone (3.26 g) in methanol (40 ml) was added. After stirring at room temperature for 12 hours, water was added to the mixture, and the mixture extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and filtered, followed by concentration. The concentrate was subjected to silica gel chromatography to give 3.47 g (yield 96%) of 2-methylthio-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-(3-t-butyldimethylsilyloxy-1-octenyl)-2-cyclopentenone.

reactant | sodium thiomethoxide | 2.30 g | C[S-].[Na+]
reactant | acetic acid | 2.82 ml | C(C)(=O)O | C2H4O2
reactant | Triethylamine | 915 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-epoxy-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-(3-t-butyldimethylsilyloxy-1-octenyl)cyclopentanone | 3.26 g | O1C2C(C(C(C21)C=CC(CCCCC)O[Si](C)(C)C(C)(C)C)C(CCCCCC(=O)OC)O)=O | C27H48O6Si
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
product | 2-methylthio-5-(1-hydroxy-6-methoxycarbonylhexyl)-4-(3-t-butyldimethylsilyloxy-1-octenyl)-2-cyclopentenone | 3.47 g, yield 96% | CSC=1C(C(C(C1)C=CC(CCCCC)O[Si](C)(C)C(C)(C)C)C(CCCCCC(=O)OC)O)=O | C28H50O5SSi
